data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6988,"C1=CC=[N:1]C=C1.C1CCC(=[O+:2][H:3])CC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5606,"CC1(C)C2CCC1(C1=C([NH2:1])C=C(Cl)C=C1)[C+:2](C)C2.CO.[Cl-]|(1, 2)"
train,pmechdb_split_0,0,9581,"C[NH:1]C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1545,"CC1=C[CH+:1][C:2](Br)([H:3])O1.[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2355,"CC[Si]1(CC)OC(C2=CC=CC=C2)CC(O[Si](C)(C)C)C1[CH+:1][CH2:2][Si-:3](C)(C)(C)OS(=O)(=O)C(F)(F)F|((3, 2), 1)"
train,pmechdb_split_0,0,8085,"CC(=O)O[C:1](C)=[O:2].COC1=C(C=O)C(O)=CC=C1.O=C(NCC(=O)[O-:3])C1=CC=CC=C1.O=C(O)[O][K].[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3132,"C[CH:1]=[O:2].[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5751,"C(=CCC1=CC=CC=C1)=[N-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1749,"ClC[N+]12CCN(CC1)CC2.F[B-](F)(F)F.F[P+:1](C1CCCCC1)(C1CCCCC1)C1CCCCC1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,9457,"N#[C-:1].[CH2:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,521,"CC[N:1](CC)CC.O=S(=O)(C1=CC=CC=C1)[NH+:2](CCC1=C(I)C=C2OCOC2=C1)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7925,"CCCCC(O)(C1=C(O)C=CC(Br)=C1)[N+:1]1([H:2])CCCC1C1=NN=NN1.O=C(C(F)(F)F)[O-:3].O=CC1=CC=C([N+](=O)[O-])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2711,"CC(=O)O[B-:1](OC(C)=O)(OC(C)=O)[H:2].CN1C2CCC1C[C:3](=[NH+:4]CC1=CC=CC=C1)C2.[Na+]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6533,"CC(C1CCCC1=O)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5204,"C[CH:1]=[Cl+:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8610,"O=C(Cl)O[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[C+:5]OC1=CC=CC=C1|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,1461,"CC(=O)[O-].CCOC(=O)C=CC1=C([CH:1]2[OH+:2]CCC[O:3]2)C(F)=CC=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5311,"CC(=O)[NH2:1].CO[P:2](Cl)(SC)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4508,"CC(=O)[O:1][H:2].CC12CCC(=[N+]3CCCC3C(=O)[O-])CC1([O-:3])CCC2=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4941,"O=S(=O)(OCC1=C(C[O-:1])C=CC=C1)C(F)(F)F.[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,3164,"C[N:1](C)[CH:2](O)[OH+:3]C.[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5927,"C1[CH2:1][O:2]1.[Li][CH]=[CH:3][Li:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2084,"CC(C)[CH2][AlH:1][CH2]C(C)C.CCCOC(CCC)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,5550,"CCC1CC[C:1]2(C)C1[Br+:2]2.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2821,"FC(F)(F)C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2738,"C1=CC=[N+:1]([H:2])C=C1.CCOS(C)(C)OC(NC)=[N:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5357,"COC(=O)C12CC(=O)[N+:1](CCC3=CC(OC)=C(OC)C=C3)=[C:2]1[CH:3]=[CH:4][C:5](OC(C)(C)O)([H:6])C2.O=C(C(F)(F)F)[O-:7]|(7, 6);((6, 5), 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5427,"CC1=C(O[Si](C(C)C)(C(C)C)C(C)C)CCC(C)(CO)C1.CC1=CC(C(C)(C)C)=NC(C(C)(C)C)=C1.COCC1OC(S(C2=CC=CC=C2)=[O:1])C(OC)C(OC)C1OC.CS(=O)(=O)O[S:2](C)(=O)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8309,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=C([N+:1](=CC2=COC3=C(C=CC=C3)C2=O)[H:2])C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9231,"CCSCCC=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4895,"C1=C[CH:1]=[CH:2]C=C1.CC[C+:3](C)C|((2, 1), 3)"
train,pmechdb_split_0,0,9468,"N[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,7980,"CC(=O)O.COC(=O)C[C:1](C)=[O:2].C[NH:3]CC1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2913,"CC1=N[C:1]([OH:2])=[C:3]([N+](=O)[O-])C(O)=N1.O.O=S(=O)([O-])O.O=[N+:4]=[O:5]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,693,"CC1CCC[C:1]([O:2][Ti-]([Cl])([Cl])([Cl])[Cl])=[CH:3]C1CC([Si](C)(C)C)=[C+:4]C|(2, 1);((1, 3), 4)"
train,pmechdb_split_0,0,6644,"CC(C)=[O+:1][H:2].COC(=O)C12CC(=O)N(CCC3=CC(OC)=C(OC)C=C3)C1=C[CH:3]=[C:4]([OH:5])C2.O=C([O-])C(F)(F)F|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,449,"C=C(C)O[Si](C)(C)C.CCC=[O:1].[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,3450,"C[N:1](C)[CH2:2][F:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8467,"C[O+:1]=[CH:2]CC1=CC=CC=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1919,"C=CC(C)=O.CO[C:1]([C:2]1=[CH:3][CH:4]([H:5])CC(C2CCCCC2)CC1=O)=[O:6].C[O-:7].[H][H].[Na+]|(7, 5);((5, 4), 3);((3, 2), 1);((1, 6), 6)"
train,pmechdb_split_0,0,969,"O[CH:1]([NH2:2])[I:3].[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7527,"C1CO[C:1](=[O:2])O1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4328,"C1=CC=[N:1]C=C1.O=P(Cl)(Cl)[O:2][CH2:3][CH2:4][H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,1061,"CC1(C)C=CC2(O)C(C)(CC[C:1](=[O:2])[CH:3]2[H:4])C1.C[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2768,"CCO[C:1](CC[C:2](=[CH2:3])[O-:4])=[O:5]|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,4767,"C[C:1](O)=[C:2](C1=C([C:3](C(=O)O)=[O:4])C=CC=C1)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
